US07807708B2
In a manner similar to that of Example 3, by reacting 270 mg of ethyl 4″-(acetylethylamino)-3″-tert-butyl-4′-(4-hydroxybutoxy)-[1,1′;3′,1″]terphenyl-4-carboxylate with 0.8 mL and then 0.4 mL of aqueous 1N sodium hydroxide solution in a mixture of 8 mL of tetrahydrofuran and 2 mL of water. 195 mg of 4″-(acetylethylamino)-3″-tert-butyl-4′-(4-hydroxybutoxy)-[1,1′;3′,1″]terphenyl-4-carboxylic acid are obtained in the form of a white solid (yield=95%, m.p.=75° C.).

reactant | ethyl 4″-(acetylethylamino)-3″-tert-butyl-4′-(4-hydroxybutoxy)-[1,1′;3′,1″]terphenyl-4-carboxylate | 270 mg | C(C)(=O)CCNC1=C(C=C(C=C1)C=1C=C(C=CC1OCCCCO)C1=CC=C(C=C1)C(=O)OCC)C(C)(C)C | C33H41NO5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 4″-(acetylethylamino)-3″-tert-butyl-4′-(4-hydroxybutoxy)-[1,1′;3′,1″]terphenyl-4-carboxylic acid | 195 mg | C(C)(=O)CCNC1=C(C=C(C=C1)C=1C=C(C=CC1OCCCCO)C1=CC=C(C=C1)C(=O)O)C(C)(C)C | C31H37NO5
